US05872115
Step 2): A suspension of 11-(1,4-dioxa-8-azaspiro[4,5]decane-8-yl)-2-bromo-6,11-dihydrodibenz[b,e]oxepin (5.5 g, 13.2 mmol) in 4N HCl was heated at 60°-70° C. for 30 minutes. Then ethanol was added to the mixture. The mixture was heated at 60°-70° C. for 1.5 hours. After ethanol was evaporated, the reaction mixture was made alkaline with 50% NaOH solution, then extracted with ethyl acetate and chloroform. The organic layer was washed with water, dried (MgSO4) and concentrated to give 11-(4-oxopiperidin-1-yl)-2-bromo-6,11-dihydrodibenz[b,e]oxepin (100%): mp 196°-200° C.

reactant | 11-(1,4-dioxa-8-azaspiro[4,5]decane-8-yl)-2-bromo-6,11-dihydrodibenz[b,e]oxepin | 13.2 mmol, 5.5 g | O1CCOC12CCN(CC2)C2C1=C(OCC3=C2C=CC=C3)C=CC(=C1)Br | C21H22BrNO3
reactant | ethanol | C(C)O | C2H6O
solvent | HCl | 4N | Cl | ClH
product | 11-(4-oxopiperidin-1-yl)-2-bromo-6,11-dihydrodibenz[b,e]oxepin | 100% | O=C1CCN(CC1)C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)Br | C19H18BrNO2
